US06727264B1
6-NITRO-1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-nitro-1H-indole and iodobenzene: ESMS m/e: 238.2 (M+H)+.

reactant | 6-nitro-1H-indole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 6-NITRO-1-PHENYL-1H-INDOLE | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)C1=CC=CC=C1 | C14H10N2O2
